data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_149892_1,[C:1](/[C:5]([N:4](/[C:6]([C:2]([H:15])([H:16])[H:17])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])[H:9])=[N:8]\[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:5]([C:7]([C:3]([H:18])([H:19])[H:20])(/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:4]/[H:9])[H:11])=[N:8]\[H:10])([H:12])([H:13])[H:14],60.64411000001641
MR_342705_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:15])([H:16])[H:17])([C:6]([C:4]([H:14])([H:18])[H:19])=[O:9])[O:8][H:10])=[O:7]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([C:5]([C:6]([C:4]([H:14])([H:18])[H:19])=[O:9])=[O:8])[O:7][H:10],45.82381500001702
MR_258064_0,[C:1]1([H:10])([H:11])[N:6]([H:9])[N:5]([C:2]([H:12])([H:13])[H:14])[C:7]([C:3]([H:15])([H:16])[H:17])=[C:8]1[C:4]([H:18])([H:19])[H:20]>>[C:1]1([H:10])([H:11])[N:6]([H:9])[C:8]1([C:4]([H:18])([H:19])[H:20])/[C:7]([C:3]([H:15])([H:16])[H:17])=[N:5]/[C:2]([H:12])([H:13])[H:14],56.41099499996756
MR_258174_0,[C:1]([N:3]([C:4]1([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:7]/[H:10])[O:8]1)[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:4](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:10])=[O:8])[O:6][H:9])([H:11])([H:12])[H:13],44.06179499997137
MR_487754_1,[C@@:1]([N:2]([H:8])[H:9])([O:4][H:6])([N:5]=[C:3]([H:10])[H:11])[H:7]>>[C:1]([O:4][H:6])([N:5][C:3]([N:2]([H:8])[H:9])([H:10])[H:11])[H:7],52.384955000002265
MR_491350_2,[C:1]([N:2]([O:5][N:3]([H:7])[H:8])[H:6])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:2]([N:4]([H:9])[H:10])[H:6])([O:5][N:3]([H:7])[H:8])([H:11])[H:12],72.99644749996901
MR_35383_0,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[O:6])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:11])=[O:6])([N:5]([H:7])[H:10])([H:12])[H:13],38.63580250000936
MR_656668_1,[C:1]([C:3](=[O:7])[O:8][C:4]1([C:2]([H:10])([H:13])[H:14])[O:5][O:6]1)([H:9])([H:11])[H:12]>>[C:1]([C:3]([O:5][O:6][C:4]([C:2]([H:10])([H:13])[H:14])=[O:8])=[O:7])([H:9])([H:11])[H:12],32.670787500017155
MR_473685_1,[C:1]([C:2]([O:6][H:10])=[O:8])([C:3]([O:7][H:11])=[O:9])([N:4]([H:12])[H:13])[N:5]([H:14])[H:15]>>[C:1](=[C:2]([O:6][H:10])[O:8][C:3]([O:7][H:11])=[O:9])([N:4]([H:12])[H:13])[N:5]([H:14])[H:15],67.81016000007952
MR_558320_0,[C:1](/[C:3](=[C:2]([N:4]([H:9])[H:10])/[N:6]=[N:7]/[H:11])[O:5][H:8])([H:12])([H:13])[H:14]>>[C:1](/[C:2](=[C:3]([O:5][H:8])/[N:6]=[N:7]/[H:11])[N:4]([H:9])[H:10])([H:12])([H:13])[H:14],70.07355250000074
MR_345624_0,[C:1]([N:2]([N:3]([H:8])[H:9])[H:7])(/[N:6]=[C:5](\[N:4]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1](=[N:6][C:5]([N:2]([N:3]([H:8])[H:9])[H:7])([N:4]([H:10])[H:11])[H:14])([H:12])[H:13],56.91487750001514
MR_307464_1,[C:1](/[C:4](=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:11])[H:12])[O:8][H:10])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])([H:13])[H:14]>>[C:1](=[C:4]([C@@:6]([C:3]([H:18])([H:19])[H:20])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[N:7]([H:11])[H:12])[O:8][H:10])([H:13])[H:14],53.69643000000835
MR_459744_0,[C:1]([C:2]([N:6]([H:14])[H:16])([N:7]([H:15])[H:17])[H:11])([N:4]([O:8][C:3]([H:18])([H:19])[H:20])[H:9])([N:5]([H:12])[H:13])[H:10]>>[C:1]([N:4]([C:2]([N:6]([H:14])[H:16])([N:7]([H:15])[H:17])[H:11])[H:9])([N:5]([H:12])[H:13])([O:8][C:3]([H:18])([H:19])[H:20])[H:10],44.96602250000692
MR_487578_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([N:8]=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:8](/[C:4](=[N:6]/[H:12])[N:7]([H:13])[H:14])[C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([H:10])[H:11],56.092852500021735
MR_667129_1,[C:1]([N:2]([H:9])[H:10])([C:3](=[O:6])[H:13])(/[C:4](=[N:7]\[H:11])[H:14])/[C:5](=[N:8]/[H:12])[H:15]>>[C:1]([N:2]([H:9])[H:10])(=[C:3](/[O:6]/[C:4](=[N:7]\[H:11])[H:14])[H:13])/[C:5](=[N:8]/[H:12])[H:15],50.124072500003365
MR_451597_0,[n:1]1([H:9])[c:2](=[O:7])[o:5][c:4]([H:10])[c:3]1[O:6][H:8]>>[N:1](=[C:3](/[C:4]1([H:10])[C:2](=[O:7])[O:5]1)[O:6][H:8])\[H:9],68.58261250001974
MR_18956_0,[C:1]([C:3]([C:2]([H:8])([H:9])[H:10])=[N:4][H:5])([H:6])([H:7])[H:11]>>[C:1]([C:3](=[C:2]([H:8])[H:9])[N:4]([H:5])[H:10])([H:6])([H:7])[H:11],65.83290750000657
MR_151280_1,[C:1]1([H:12])([H:13])[C:3]([C:2]([C:4](=[C:5]([H:15])[H:16])[H:14])([O:7][H:9])[O:8][H:10])([H:11])[O:6]1>>[C:1]([C:4](=[C:5]([H:15])[H:16])[H:14])([O:6][C:3](=[C:2]([O:7][H:9])[O:8][H:10])[H:11])([H:12])[H:13],57.65281749997115
MR_385891_0,[C:1]([C:4]([C:2]([C:3]([O:7][H:12])=[O:8])([H:14])[H:15])=[O:9])([O:5][H:11])([O:6][H:10])[H:13]>>[C:1]([C:4](=[C:2]([H:14])[H:15])[O:9][C:3]([O:7][H:12])=[O:8])([O:5][H:11])([O:6][H:10])[H:13],68.47154499997913
MR_478179_1,[C:1]([N:2](/[C:3]([N:4]([H:8])[H:9])=[N:6]/[H:10])[H:7])([N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:2]=[C:3]([N:4]([H:8])[H:9])[N:6]([H:10])[H:12])([N:5]([H:7])[H:11])([H:13])[H:14],44.04359749998165
